*subcircuit PWM4
*parameters:
*  period
*  Vin_Low   ;Voltage between Input nodes for   0 % PWM
*  Vin_High  ;Voltage between Input nodes for 100 % PWM
*  Vout_low
*  Vout_high
.SUBCKT pwm4 in+ in- out+ out-
V1 saw 0 PULSE({Vin_Low} {Vin_High} 0 {period} {period/1e6} 0 {period}); Sawtooth 
B2 out+ out- V=if(V(in+,in-)<V(saw),{Vout_low},{Vout_high})
.ends
